US08084448B2
B. N-(2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-ethyl)-benzamide
To a solution of 5-[4-(2-aminoethyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one TFA salt (235 mg, 0.356 mmol) in methylene chloride (2 mL) is added triethylamine (0.1 mL) then benzoyl chloride (56 mg, 0.4 mmol) and the mixture is stirred at RT for 2 h. The solvent is removed under reduced pressure and 1 N HCl is added. The mixture is extracted with ether and the organic phase is dried over magnesium sulfate. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using hexane/EtOAc (7:3) as eluent to give the title compound.

reactant | 5-[4-(2-aminoethyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one TFA salt | 0.356 mmol, 235 mg | OC(=O)C(F)(F)F.NCCC1=CC(=C(C=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O)OCC1=CC=CC=C1
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.4 mmol, 56 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-ethyl)-benzamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)CCNC(C1=CC=CC=C1)=O | C29H35N3O5SSi
